US07425642B2
N,5-Dimethoxy-N-methyl-1H-indole-2-carboxamide
To a solution of 5-methoxyindole-2-carboxylic acid (5 g, 26 mmol) in N,N-dimethylformamide were added N,O-dimethylhydroxyamine hydrochloride (3.04 g, 31.2 mmol) and WSC (5.98 g, 31.2 mmol), 1-hydroxybenzotriazole (4.21 g, 31.2 mmol) and triethylamine (7.24 ml, 52 mmol), and the mixture was stirred for 6 hours. To this reaction solution were added ethyl acetate and 10% (Wt) citric acid, and the organic layer was extracted. The aqueous layer was extracted twice with ethyl acetate, and combined with the organic layer. The mixture was washed with a saturated aqueous sodium hydrogen carbonate solution and saturated saline. The organic layer was separated, and dried over anhydrous sodium sulfate, filtered, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to give the title compound (4.5 g, 70%).

reactant | 5-methoxyindole-2-carboxylic acid | 26 mmol, 5 g | COC=1C=C2C=C(NC2=CC1)C(=O)O | C10H9NO3
reactant | N,O-dimethylhydroxyamine hydrochloride | 31.2 mmol, 3.04 g | Cl.CNOC
reactant | WSC | 31.2 mmol, 5.98 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 31.2 mmol, 4.21 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 52 mmol, 7.24 ml | C(C)N(CC)CC | C6H15N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,5-Dimethoxy-N-methyl-1H-indole-2-carboxamide | 4.5 g, 70% | CON(C(=O)C=1NC2=CC=C(C=C2C1)OC)C | C12H14N2O3
